US08247431B2
Step 2: Preparation of 3-amino-pyridine-2-carbonitrile
2-Chloro-pyridin-3-ylamine (2.0 g) was dissolved in DMF (24 mL) and zinc cyanide (1.83 g) was added to the solution. The solution was degassed in vacuum 5×, tetrakis(triphenylphosphine) palladium(0) (901 mg) was added and the reaction mixture was stirred at 90° C. for 7 h. After the reaction mixture was cooled to room temperature, the solid was removed by filtration and the filter cake was washed with ethyl acetate. Water was added to the filtrate, the layers were separated and the aqueous layer was 2× extracted with ethyl acetate. The combined organic layer was washed 3× with water, washed with brine, dried over magnesium sulfate and concentrated in vacuum. The residue was purified by column chromatography (silica 60, chloroform/ethyl acetate 3:1, Rf=0.25) to afford 755 mg of the title compound of the formula

reactant | 2-Chloro-pyridin-3-ylamine | 2.0 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.83 g | [C-]#N.[Zn+2].[C-]#N
product | 3-amino-pyridine-2-carbonitrile | 755 mg | NC=1C(=NC=CC1)C#N | C6H5N3
